*   BF992 SPICE MODEL JANUARY 1996 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF992 1 2 3 4
        L10          1 10   0.12N
        L20          2 20   0.12N
        L30          3 30   0.12N
        L40          4 40   0.12N
        L11         10 11   1.20N
        L21         20 21   1.20N
        L31         30 31   1.20N
        L41         40 41   1.20N
        C13         10 30   0.085P
        C14         10 40   0.085P
        C21         10 20   0.017P
        C23         20 30   0.085P
        C24         20 40   0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   100
        MOS1        61 41 11 12 GATE1 L=2E-6 W=2200E-6
        MOS2        21 31 61 12 GATE2 L=3.0E-6 W=2200E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=904.9  VTO=-0.2051 NFS=300E9 TOX=60E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=500E-9 THETA=0.11
+  ETA=0.2095 KAPPA=0.6488 LD=0.3E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=-0.2051 NFS=300E9 TOX=60E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=500E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.3E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.467E-12 CBS=0.5E-12

.ENDS BF992



*   BF998 SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF998 1 2 3 4
        L10          1 10   0.12N
        L20          2 20   0.12N
        L30          3 30   0.12N
        L40          4 40   0.12N
        L11         10 11   1.20N
        L21         20 21   1.20N
        L31         30 31   1.20N
        L41         40 41   1.20N
        C13         10 30   0.085P
        C14         10 40   0.085P
        C21         10 20   0.017P
        C23         20 30   0.085P
        C24         20 40   0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   100
        MOS1        61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2        21 31 61 12 GATE2 L=2.0E-6 W=1150E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.ENDS BF998


*   BF998WR SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT343R 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF998WR 1 2 3 4
        L10          1 10   0.10N
        L20          2 20   0.34N
        L30          3 30   0.34N
        L40          4 40   0.34N
        L11         10 11   1.10N
        L21         20 21   1.10N
        L31         30 31   1.10N
        L41         40 41   1.10N
        C13         10 30   0.060P
        C14         10 40   0.060P
        C21         10 20   0.050P
        C23         20 30   0.070P
        C24         20 40   0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   100
        MOS1        61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2        21 31 61 12 GATE2 L=2.0E-6 W=1150E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.ENDS BF998WR


*   BF994S SPICE MODEL MARCH 1996 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF994S 1 2 3 4
        L10          1 10   0.12N
        L20          2 20   0.12N
        L30          3 30   0.12N
        L40          4 40   0.12N
        L11         10 11   1.20N
        L21         20 21   1.20N
        L31         30 31   1.20N
        L41         40 41   1.20N
        C13         10 30   0.085P
        C14         10 40   0.085P
        C21         10 20   0.017P
        C23         20 30   0.085P
        C24         20 40   0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   100
        MOS1        61 41 11 12 GATE1 L=2E-6 W=1280E-6
        MOS2        21 31 61 12 GATE2 L=3.0E-6 W=1280E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=750  VTO=-0.4357 NFS=300E9 TOX=60E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.1686 KAPPA=2.282 LD=0.3E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=-0.4357 NFS=300E9 TOX=60E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.3E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.ENDS BF994S



*.SUBCKT BF981 1 2 3 4
*Drain  Gate2 Gate1 Source   

* Pin order changed in BF981 model
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF981 4 1 2 3

*Dual Gate Mosfet
MD1 5 3 4 4 BF981A
MD2 1 2 5 4 BF981B W=50U
.MODEL BF981A NMOS (LEVEL=1 VTO=-1.1 KP=15M GAMMA=3.3U
+ PHI=.75 LAMBDA=3.75M RS=2.2 IS=12.5F PB=.8 MJ=.46
+ CBD=3.43P CBS=4.11P CGSO=240P CGDO=200P CGBO=20.5N)
.MODEL BF981B NMOS (LEVEL=1 VTO=-.9 KP=18M GAMMA=19.08U
+ PHI=.75 LAMBDA=13.75M RD=41.3 IS=12.5F PB=.8 MJ=.46
+ CBD=3.43P CBS=4.11P CGSO=240P CGDO=200P CGBO=14.5N)
* Philips
* N-Channel Depletion DG-MOSFET
.ENDS BF981
*
**********
* Copyright Intusoft 1991
* All Rights Reserved
**********
*SYM=DGMOS
.SUBCKT BF993 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF993G1
MD2 1 2 5 4 BF993G2 W=65U
.MODEL BF993G1 NMOS (LEVEL=1 VTO=-1.0 KP=23M GAMMA=7.4U 
+ PHI=.75 LAMBDA=13.75M RS=2.5 IS=31.2F PB=.8 MJ=.46
+ CBD=9.66P CBS=11.5P CGSO=600P CGDO=500P CGBO=61.4N
.MODEL BF993G2 NMOS (LEVEL=1 VTO=-.9 KP=25M GAMMA=30.4U
+ PHI=.75 LAMBDA=23.75M RD=74.4 IS=31.2F PB=.8 MJ=.46
+ CBD=9.66P CBS=11.5P CGSO=600P CGDO=500P CGBO=61.4N
* Siemens
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SYM=DGMOS
.SUBCKT BF980A 1      2     3     4
*Connections   Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF980AA
MD2 1 2 5 4 BF980AB W=50U
.MODEL BF980AA NMOS (LEVEL=1 VTO=-1.0 KP=17M GAMMA=4.34U
+ PHI=.75 LAMBDA=4.16M RS=3.2 IS=20.8F PB=.8 MJ=.46
+ CBD=2.89P CBS=3.47P CGSO=300P CGDO=250P CGBO=25.4N)
.MODEL BF980AB NMOS (LEVEL=1 VTO=-.9 KP=20M GAMMA=17.47U
+ PHI=.75 LAMBDA=14.16M RD=30 IS=20.8F PB=.8 MJ=.46
+ CBD=2.89P CBS=3.47P CGSO=300P CGDO=250P CGBO=25.4N)
* Philips
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SYM=DGMOS
.SUBCKT MN201 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 MN201-1
MD2 1 2 5 4 MN201-2 W=35U
.MODEL MN201-1 NMOS (LEVEL=1 VTO=-1.45 KP=11.8M GAMMA=3.26U
+ PHI=.75 LAMBDA=30M RD=1M RS=20.8 IS=25F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
.MODEL MN201-2 NMOS (LEVEL=1 VTO=-1.00 KP=12.5M GAMMA=27.26U
+ PHI=.75 LAMBDA=37M RD=15.3 RS=1M IS=30F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
* Motorola
* N-Channel Depletion DG-MOSFET 
.ENDS
*************